US03956374
Step A: 3-Phenyl-6-(p-methylphenyl)-5-hexen-2-one
Sodium hydride (6 g., 0.14 mole, oil dispersion) is suspended in glyme (200 ml.) and phenyl acetone (19.2 g., 0.14 mole) in glyme (50 ml.) is added dropwise with stirring. After complete addition the mixture is heated to reflux for 0.5 hour. The mixture is cooled in a cold water bath and a solution of p-methylcinnamyl bromide (32.2 g., 0.14 mole) in glyme (50 ml.) is added dropwise. When addition is complete, the mixture is refluxed for 18 hours then allowed to cool. Cold water (1000 ml.) is added and the mixture acidified with dilute hydrochloric acid. The mixture is saturated with ammonium sulfate and the organic material is extracted into ether. The extracts are washed with water, saturated brine, and dried (MgSO4). Filtration and removal of solvent in vacuo produces the crude product as a dark oil.

reactant | Sodium hydride | 0.14 mole, 6 g | [H-].[Na+]
reactant | phenyl acetone | 0.14 mole, 19.2 g | C1(=CC=CC=C1)CC(C)=O | C9H10O
reactant | p-methylcinnamyl bromide | 0.14 mole, 32.2 g | CC1=CC=C(C=CCBr)C=C1 | C10H11Br
reactant | hydrochloric acid | Cl | ClH
reactant | ammonium sulfate | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
solvent | glyme | 200 ml | C(OC)COC | C4H10O2
solvent | glyme | 50 ml | C(OC)COC | C4H10O2
solvent | glyme | 50 ml | C(OC)COC | C4H10O2
solvent | water | 1000 ml | O | H2O
product | 3-Phenyl-6-(p-methylphenyl)-5-hexen-2-one | C1(=CC=CC=C1)C(C(C)=O)CC=CC1=CC=C(C=C1)C | C19H20O
